US04985419
A solution of 10-[1-(2,5-dihydro-1-pyrrolyl)-2-propyl]-2-phenothiazinecarbonitrile, L series (12.57 g) and triethylamine (5.5 cc) in pyridine (115 cc) is treated with hydrogen sulphide by bubbling in for 2 hours. After 16 hours' stirring at a temperature in the region of 25° C., the light brown solution obtained is purged with nitrogen for 2 hours, diluted with ethyl acetate (300 cc), washed with distilled water (10×100 cc), dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. The yellow product (13.3 g) of meringue-like consistency is purified by chromatography on a column (height: 47 cm; diameter: 3.8 cm) of silica gel (0.04-0.063 mm) under a slight excess pressure of nitrogen (40 kPa), eluting with ethyl acetate (2 liters) and collecting 125-cc fractions. Fractions 4 to 10 are combined and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. to give 10-[1-(2,5-dihydro-1-pyrrolyl)-2-propyl]-2-phenothiazinecarbothioamide, L series (10.6 g) in the form of a yellow product of meringue-like consistency.

reactant | 10-[1-(2,5-dihydro-1-pyrrolyl)-2-propyl]-2-phenothiazinecarbonitrile | N1(CC=CC1)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C#N | C20H19N3S
reactant | triethylamine | 5.5 cc | C(C)N(CC)CC | C6H15N
reactant | hydrogen sulphide | S | H2S
solvent | pyridine | 115 cc | N1=CC=CC=C1 | C5H5N
product | 10-[1-(2,5-dihydro-1-pyrrolyl)-2-propyl]-2-phenothiazinecarbothioamide | N1(CC=CC1)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(N)=S | C20H21N3S2
